US07442805B2
Ethyl N-[(5-amino-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-phenylalaninate was prepared from 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylic acid and L-phenylalanine ethyl ester hydrochloride followed the procedure of Example 8 Step 2 as a pale yellow solid: MS (ESI) m/z 442 (MH+); HRMS calcd for C27H28N3O3: 442.2128; found (ESI+): 442.2122.

reactant | 1-methyl-5-nitro-3-phenyl-1H-indole-2-carboxylic acid | CN1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)O | C16H12N2O4
reactant | L-phenylalanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
product | Ethyl N-[(5-amino-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-phenylalaninate | NC=1C=C2C(=C(N(C2=CC1)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C27H27N3O3
